US06818774B2
6-(3-Fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline
A mixture of 6-(3-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one (1.2 g, 4.423 mmol) and lithium aluminum hydride (0.337 g, 8,84 mmol) in tetrahydrofuran (24 ml) was heated to 60° C. for 8 h. Water was added and an 15% aqueous solution of sodium hydroxide and the mixture was extracted with ethylacetate. After drying of the organic layer with MgSO4, filtration and evaporation, an oil was obtained (1.14 g, 99%). MS: m/e 258.0 (M+H+).

reactant | 6-(3-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one | 4.423 mmol, 1.2 g | FC=1C=C(COC=2C=C3CCNC(C3=CC2)=O)C=CC1 | C16H14FNO2
reactant | lithium aluminum hydride | 8,84 mmol, 0.337 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 6-(3-Fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline | FC=1C=C(COC=2C=C3CCNCC3=CC2)C=CC1 | C16H16FNO
